US07893099B2
Step 1: (1R,2R)-2-(cyanomethyl-carbamoyl)-4-oxo-cyclopentanecarboxylic acid ethyl ester
The reaction of (1R,2R)-4-oxo-cyclopentane-1,2-dicarboxylic acid monoethyl ester and aminoacetonitrile hydrochloride performed in analogy to example 1, step 8 yielded the title compound as a pale brown solid. MS: 237.3 (M−H)−.

reactant | (1R,2R)-4-oxo-cyclopentane-1,2-dicarboxylic acid monoethyl ester | C(C)OC(=O)[C@H]1[C@@H](CC(C1)=O)C(=O)O | C9H12O5
reactant | aminoacetonitrile hydrochloride | Cl.NCC#N
product | (1R,2R)-2-(cyanomethyl-carbamoyl)-4-oxo-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1[C@@H](CC(C1)=O)C(NCC#N)=O | C11H14N2O4
